US08013008B2
Under an argon atmosphere, to a solution (228 mL) of ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxy-5-methylhexanoate (14.74 g) in dehydrated THF was added 2,6-lutidine (7.33 g) with stirring under ice-cooling, and tert-butyl dimethylsilyl trifluoromethanesulfonate (14.46 g) was added dropwise. The mixture was gradually warmed to room temperature and stirred for 1.5 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=19/1→4/1) to give ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-{[tert-butyl(dimethyl)silyl]oxy}-5-methylhexanoate as colorless oil (yield: 17.7 g).

reactant | ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxy-5-methylhexanoate | 228 mL, 14.74 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O)C(C)C | C17H25NO5
reactant | 2,6-lutidine | 7.33 g | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl dimethylsilyl trifluoromethanesulfonate | 14.46 g | CC(C)(C)[Si](C)(C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | THF | C1CCOC1 | C4H8O
product | ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-{[tert-butyl(dimethyl)silyl]oxy}-5-methylhexanoate | yield: 17.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O[Si](C)(C)C(C)(C)C)C(C)C | C23H39NO5Si
